US05530157
A mixture of the above alcohol (0.78 g; 3.22 mmol), methyl 4-hydroxybenzoate (0.74 g; 4.83 mmol) and triphenylphosphine (1.01 g; 3.86 mmol) in 15 mL of THF was treated with diisopropylazodicarboxylate (0.72 g; 3.54 mmol) and stirred at room temperature for 24 hours. The product was extracted into ethyl acetate; the organic phase was washed with water, dried and chromatographed (10% ethyl acetate/hexane) to afford 900 mg (74%) of methyl 4-[3-(4-benzoxyphenyl)propoxy]benzoate, 1H NMR (CDCl3): δ 2.13 (m, 2H); 2.87 (t, 2H, J=7.8); 3.89 (s, 3H); 4.00 (t, 2H, J=6.4); 5.07 (s, 2H); 6.83-6.86 (m, 4H); 6.91 (d, 2H, J=7.3); 7.34-7.44 (m, 5H); 7.95 (d, 2H, J=6.9).

reactant | methyl 4-hydroxybenzoate | 4.83 mmol, 0.74 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | triphenylphosphine | 3.86 mmol, 1.01 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 3.54 mmol, 0.72 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | methyl 4-[3-(4-benzoxyphenyl)propoxy]benzoate | 900 mg, 74% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCOC1=CC=C(C(=O)OC)C=C1 | C24H24O4
